US04863920
4.0 g (69.5 mmol) of freshly powdered potassium hydroxide was stirred for 10 minutes in 40 ml of N,N-dimethylformamide and cooled to 10°. 5.48 g (17.3 mmol) of 7-chloro-4,5-dihydro-3-(3-hydroxy-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one and 4.94 g (35 mmol) of methyl iodide were added thereto in succession, the ice-bath was removed and the mixture was stirred for a further 1 hour. The reaction mixture was poured into 200 ml of water and extracted five times with methylene chloride. The combined organic extracts were washed four times with water, dried over magnesium sulphate and evaporated. After recrystallization of the residue from ethyl acetate there was obtained 7-chloro-4,5-dihydro-3-(3-methoxy-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]-benzodiazepin-6-one of melting point 139°-141°.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 7-chloro-4,5-dihydro-3-(3-hydroxy-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 17.3 mmol, 5.48 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CC(C)O)C)=O | C16H14ClN3O2
reactant | methyl iodide | 35 mmol, 4.94 g | CI | CH3I
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 7-chloro-4,5-dihydro-3-(3-methoxy-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]-benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CC(C)OC)C)=O | C17H16ClN3O2
